US06897224B2
3-[1-(2,5-Difluorophenyl)-cycloprop-1-yl]-1-(2-methylquinolin-5-ylamino)-2-(trifluoromethyl)-1-(2-methylquinolin-5-ylamino)-propan-2-ol
Analogously to Example 76, 60 mg (1.46 mmol) of NaH (60%) and 244 mg (1.23 mmol) of 5-acetylamino-2-methyl-quinoline are reacted with 365 mg (0.81 mmol) of toluene-4-sulfonic acid-3-[1-(2,5-difluorophenyl)-cycloprop-1-yl]-2-(trifluoromethyl)-2-hydroxy-propyl ester. The crude product is treated analogously to Example 76 with 1 M sodium hydroxide solution. After chromatography on silica gel with hexane-ethyl acetate (30-50%), 67 mg of product is obtained.

reactant | NaH | 1.46 mmol, 60 mg | [H-].[Na+]
reactant | 5-acetylamino-2-methyl-quinoline | 1.23 mmol, 244 mg | C(C)(=O)NC1=C2C=CC(=NC2=CC=C1)C | C12H12N2O
reactant | toluene-4-sulfonic acid-3-[1-(2,5-difluorophenyl)-cycloprop-1-yl]-2-(trifluoromethyl)-2-hydroxy-propyl ester | 0.81 mmol, 365 mg | FC1=C(C=C(C=C1)F)C1(CC1)CC(COS(=O)(=O)C1=CC=C(C=C1)C)(O)C(F)(F)F | C20H19F5O4S
reactant | sodium hydroxide | 1 M | [OH-].[Na+]
solvent | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
product | 3-[1-(2,5-Difluorophenyl)-cycloprop-1-yl]-1-(2-methylquinolin-5-ylamino)-2-(trifluoromethyl)-1-(2-methylquinolin-5-ylamino)-propan-2-ol | 67 mg | FC1=C(C=C(C=C1)F)C1(CC1)CC(C(NC1=C2C=CC(=NC2=CC=C1)C)NC1=C2C=CC(=NC2=CC=C1)C)(O)C(F)(F)F | C33H29F5N4O
